US06936602B1
In methanol (25 ml) and THF (25 ml) was dissolved methyl 7-[4-[N-ethyl-N-(2-propoxyethyl)amino]phenyl]-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.31 g). To the solution was added 1N sodium hydroxide solution (7 ml), and the mixture was stirred at 60° C. for 1.5 hours and concentrated. To the residue was added water, and the mixture was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate, and the solvent was evaporated to give 7-[4-[N-ethyl-N-(2-propoxyethyl)amino]phenyl]-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (0.29 g) as pale yellow crystals.

reactant | methyl 7-[4-[N-ethyl-N-(2-propoxyethyl)amino]phenyl]-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.31 g | C(C)N(CCOCCC)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C=O)C(=O)OC)C1 | C26H32N2O4
reactant | sodium hydroxide | 1N, 7 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 7-[4-[N-ethyl-N-(2-propoxyethyl)amino]phenyl]-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 0.29 g | C(C)N(CCOCCC)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C=O)C(=O)O)C1 | C25H30N2O4
